US04108993
33 ml of triethylamine and then 44.3 g of 4-chloro-3-trifluoromethylphenyl isocyanate in 200 ml of chloroform were added to a mixture of 21 g of N-methyl hydroxylamine hydrochloride and 200 ml of chloroform at 0° C and the mixture was stirred at 20° C for 16 hours. The mixture was washed with water and was reduced to a volume of 100 ml under reduced pressure. The mixture was iced and vacuum filtered. The crystals were washed with water and dried to obtain 37 g of N-methyl-N-hydroxy-N'-(4'-chloro-3'-trifluoromethylphenyl)-urea melting at 114°-115° C.

reactant | triethylamine | 33 ml | C(C)N(CC)CC | C6H15N
reactant | 4-chloro-3-trifluoromethylphenyl isocyanate | 44.3 g | ClC1=C(C=C(C=C1)N=C=O)C(F)(F)F | C8H3ClF3NO
reactant | N-methyl hydroxylamine hydrochloride | 21 g | Cl.CNO
solvent | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
product | N-methyl-N-hydroxy-N'-(4'-chloro-3'-trifluoromethylphenyl)-urea | 37 g | CN(C(=O)NC1=CC(=C(C=C1)Cl)C(F)(F)F)O | C9H8ClF3N2O2
